US07569600B2
To a solution of 5-cyclohex-1-enyl-3-[(4-methyl-cyclohexanecarbonyl)-(1-methyl-piperidin-4-yl)-amino]-thiophene-2-carboxylic acid (130 mg, 0.27 mmol) in 5.0 mL of dry dimethylformamide under nitrogen was added cesium carbonate (351 mg, 1.08 mmol) and 2,2-dimethyl-propionic acid chloromethyl ester (45 mg, 0.297 mmol). The mixture was stirred for 120 min at 60° C. The mixture was partitioned between ethyl acetate and water. The EtOAc layer was separated and was washed 3 times with water, dried over Na2SO4. Filtration and removal of the solvent under reduced pressure on a rotary evaporator followed by HPLC purification afforded 120 mg (79%) of 5-cyclohex-1-enyl-3-[(trans-4-methyl-cyclohexanecarbonyl)-(1-methyl-piperidin-4-yl)-amino]-thiophene-2-carboxylic acid 2,2-dimethyl-propionyloxymethyl ester.

reactant | 5-cyclohex-1-enyl-3-[(4-methyl-cyclohexanecarbonyl)-(1-methyl-piperidin-4-yl)-amino]-thiophene-2-carboxylic acid | 0.27 mmol, 130 mg | C1(=CCCCC1)C1=CC(=C(S1)C(=O)O)N(C1CCN(CC1)C)C(=O)C1CCC(CC1)C | C25H36N2O3S
reactant | cesium carbonate | 1.08 mmol, 351 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2-dimethyl-propionic acid chloromethyl ester | 0.297 mmol, 45 mg | ClCOC(C(C)(C)C)=O | C6H11ClO2
solvent | dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | 5-cyclohex-1-enyl-3-[(trans-4-methyl-cyclohexanecarbonyl)-(1-methyl-piperidin-4-yl)-amino]-thiophene-2-carboxylic acid 2,2-dimethyl-propionyloxymethyl ester | 120 mg, 79% | CC(C(=O)OCOC(=O)C=1SC(=CC1N(C1CCN(CC1)C)C(=O)[C@@H]1CC[C@H](CC1)C)C1=CCCCC1)(C)C | C31H46N2O5S
